US05801008
(1) Synthesis of dimethyl 4-amino-3-(p-dimethylaminophenyl)-1-phenylpyrazolo[3,4-b]pyridine-5,6-dicarboxylate
Using 1.57 mg (5 mmol) of 5-amino-3-(p-dimethylaminophenyl)-1-phenylpyrazole-4-carbonitrile [see Chem. Ber., 99, 3492 (1966)] and 0.85 g (6 mmol) of dimethyl acetylenedicarboxylate, the entitled product having a melting point of 207° to 208° C. was obtained in the same manner as in Example 2-(2).

reactant | 5-amino-3-(p-dimethylaminophenyl)-1-phenylpyrazole-4-carbonitrile | 5 mmol, 1.57 mg | NC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)N(C)C)C#N | C18H17N5
reactant | dimethyl acetylenedicarboxylate | 6 mmol, 0.85 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | dimethyl 4-amino-3-(p-dimethylaminophenyl)-1-phenylpyrazolo[3,4-b]pyridine-5,6-dicarboxylate | NC1=C2C(=NC(=C1C(=O)OC)C(=O)OC)N(N=C2C2=CC=C(C=C2)N(C)C)C2=CC=CC=C2 | C24H23N5O4
